US08791132B2
5-[2-(3,6-Dimethyl-5,6,7,8-tetrahydro-1,6,9-triaza-fluoren-9-yl)-1-hydroxy-ethyl]-pyridine-2-carbonitrile (600 mg, 1.729 mmol) was dissolved in tert-butanol (12 mL), crushed potassium hydroxide (290 mg, 5.187 mmol) was added, and the mixture heated at 80° C. for 1 h. The reaction was monitored by TLC & LCMS. The reaction mixture was allowed to cool to RT, the solvent was removed under vacuum, and the residue was diluted with water (20 ml) and extracted with EtOAc (2×75 mL). The combined organic layer was dried over anhydrous sodium sulfate and concentrated to obtain the crude product that was purified by reverse phase chromatography to afford 100 mg of 5-[2-(3,6-dimethyl-5,6,7,8-tetrahydro-1,6,9-triaza-fluoren-9-yl)-1-hydroxy-ethyl]-pyridine-2-carboxylic acid amide. 1H NMR (CD3OD, TFA salt) δ (ppm): 8.62 (s, 1H), 8.1 (s, 1H), 8.05 (d, 1H), 7.95 (d, 1H), 7.8 (s, 1H), 5.23 (t, 1H), 4.7 (d, 1H), 4.53 (d, 1H), 4.4 (m, 2H), 3.83 (m, 1H), 3.6 (m, 1H), 3.4 (m, 2H), 3.2 (s, 3H), 2.43 (s, 3H). Separation by chiral HPLC provides enantiomers II-111a-b.

reactant | 5-[2-(3,6-Dimethyl-5,6,7,8-tetrahydro-1,6,9-triaza-fluoren-9-yl)-1-hydroxy-ethyl]-pyridine-2-carbonitrile | 1.729 mmol, 600 mg | CC=1C=NC=2N(C=3CCN(CC3C2C1)C)CC(O)C=1C=CC(=NC1)C#N | C20H21N5O
reactant | potassium hydroxide | 5.187 mmol, 290 mg | [OH-].[K+]
solvent | tert-butanol | 12 mL | C(C)(C)(C)O | C4H10O
product | 5-[2-(3,6-dimethyl-5,6,7,8-tetrahydro-1,6,9-triaza-fluoren-9-yl)-1-hydroxy-ethyl]-pyridine-2-carboxylic acid amide | 100 mg | CC=1C=NC=2N(C=3CCN(CC3C2C1)C)CC(O)C=1C=CC(=NC1)C(=O)N | C20H23N5O2
